US07378525B2
4-(Piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide (F-2)
4-(4-Cyclohexylcarbamoyl-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester F-1 (320 mg, 0.62 mmol) was dissolved in 4N HCl/dioxane (10 mL). The reaction was stirred for 2 hours at room temperature and concentrated in vacuo to afford the title compound as its hydrochloride salt. Wt.: 271 mg (97%) 1H NMR (300 MHz, d6-DMSO) δ 8.68 (d, 1H), 8.59 (d, 1H), 8.40 (d, 1H), 8.15 (m, 2H), 7.72 (m, 2H), 7.60 (d, 1H), 3.75 (m, 1H), 3.67 (m, 1H), 3.08 (m, 2H), 2.80 (m, 2H), 2.54 (m, 1H), 1.92 (m, 2H), 1.74 (m, 2H), 1.62 (m, 4H), 1.48 (m, 1H), 1.32 (m, 4H), 1.25 (m, 1H); LC/MS m/z 416 (M+H)+.

reactant | 4-(4-Cyclohexylcarbamoyl-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)C(NC1CCCCC1)=O | C27H37N3O5S
solvent | HCl dioxane | 4N, 10 mL | Cl.O1CCOCC1
product | 4-(Piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=CC=C(C2=CC=CC=C12)S(NC1CCNCC1)(=O)=O | C22H29N3O3S
